US07326791B2
N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(N-cyclobutyl-N-acetylamino)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(N-cyclobutyl-N-acetylamino)benzoic acid, TBTU, diisopropylethylamine, and 1-(5-chlorobenzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: quantitative; Rf value: 0.50 (silica gel; methylene chloride/ethanol=9:1); C23H25ClN4O2 (424.93); mass spectrum: (M+H)+=425/427 (chlorine isotope).

reactant | 3-methyl-4-(N-cyclobutyl-N-acetylamino)benzoic acid | CC=1C=C(C(=O)O)C=CC1N(C(C)=O)C1CCC1 | C14H17NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(5-chlorobenzimidazol-2-yl)ethylamine | ClC1=CC2=C(N=C(N2)C(C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(N-cyclobutyl-N-acetylamino)benzamide | Yield: quantitative | ClC1=CC2=C(NC(=N2)C(C)NC(C2=CC(=C(C=C2)N(C(C)=O)C2CCC2)C)=O)C=C1 | C23H25ClN4O2
